US05773512
The bromoresin 1-Scheme 10 (1 g, 1 mmol) was swelled in toluene (10 mL) and ethanol (4 mL). To this was added 4-formylphenylboronic acid (450 mg, 3 mmol), aqueous sodium carbonate (2M, 3 mL, 6 mmol) and tetrakistriphenylphosphine palladium (200 mg). The reaction mixture was heated under Argon ("Ar") with stirring for 24 h., cooled and filtered through a sintered glass funnel. Washed the resin with methylene chloride, methanol, methanol-water (1:1), methanol, methylene chloride and finally with methanol. Dried in vacuo to give colorless 4-formylbiphenyl resin 2-Scheme 10. IR (KBr) 1701 cm-1 (CHO).

reactant | 4-formylphenylboronic acid | 3 mmol, 450 mg | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | sodium carbonate | 6 mmol, 2M, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 4-formylbiphenyl | C(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C13H10O
